Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],4.15812823244
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.6319752337
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],1.32734353924
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],4.55242814809
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],4.609723842169999
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:4](=[C:5]([H:6])[H:7])([H:9])[H:10].[H:1][C:2]([H:3])=[C:8]=[C:11]([H:12])[H:13],-0.442518397941
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6],6.05328583273
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15]>>[C:3]([H:4])([H:5])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15].[H:1][C:2][C:7]([H:6])([H:8])[H:9],4.22350915435
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.51655576504
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[O:8]>>[C:5]([H:6])#[C:7][O:8].[O:1][C:2]#[C:3][H:4],4.30488932002
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.92805417207
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],0.836392502039
[H:1][O:2][C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2],5.285817653640001
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6],6.98092898161
[H:3].[O:1]=[C:2]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-4.03578710331
[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[H:15].[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:13](/[H:14])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.31105057847
[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2](=[C:3](\[H:4])[O:5][H:6])\[C:7]([H:8])([H:9])[H:10].[O:1],6.01834677581
[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3](=[O:4])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]([C:2])[H:5],0.92234576325
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2]([C:3][C:10]([H:11])([H:12])[O:13][H:14])([H:8])[H:9].[H:4][C:5]#[C:6][H:7],2.19895820186
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2]([O:3][C:4]([H:5])[H:6])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:7],4.2015806539
[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](/[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.6111156323
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],3.57288045267
[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16],-6.80428212
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:6],1.68886748166
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14].[H:3],4.98143193112
[H:1][C:2]([H:3])=[C:4][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.74024957504
